US07618978B2
(2R, 5R)-5-Benzyloxymethoxy-2-[3-(3,5-difluoro-phenyl)-1-hydroxy-2-nitro-propyl]-piperidine-1-carboxylic acid tert-butyl ester
Add tetrabutylammonium fluoride (12.0 mL, 11.9 mmol, 1.0 M in tetrahydro-furan) to (2R, 5R)-5-Benzyloxymethoxy-2-formyl-piperidine-1-carboxylic acid 1-tert-butyl ester (8.0 g, 23.90 mmol) and 1,3-difluoro-5-(2-nitro-ethyl)-benzene (4.92 g, 26.30 mmol) in 150 mL tetrahydrofuran at room temperature, stir overnight and concentrate. Subject to silica gel chromatography, eluting with 100% hexane to 90:10 hexane: ethyl acetate) to provide the desired compound as a mixture of 3 isomers (8.0 g, 62% overall yield).

reactant | tetrabutylammonium fluoride | 11.9 mmol, 1.0 M, 12.0 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | (2R, 5R)-5-Benzyloxymethoxy-2-formyl-piperidine-1-carboxylic acid 1-tert-butyl ester | 23.90 mmol, 8.0 g | C(C)(C)(C)OC(=O)N1[C@H](CC[C@H](C1)OCOCC1=CC=CC=C1)C=O | C19H27NO5
reactant | 1,3-difluoro-5-(2-nitro-ethyl)-benzene | 26.30 mmol, 4.92 g | FC1=CC(=CC(=C1)CC[N+](=O)[O-])F | C8H7F2NO2
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | (2R, 5R)-5-Benzyloxymethoxy-2-[3-(3,5-difluoro-phenyl)-1-hydroxy-2-nitro-propyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](CC[C@H](C1)OCOCC1=CC=CC=C1)C(C(CC1=CC(=CC(=C1)F)F)[N+](=O)[O-])O | C27H34F2N2O7
